US04385059
3-Bromo-3-(4-chlorobenzoyl)propionate acid and an equimolar amount of 4-hydroxythio-benzamide are stirred in isopropyl alcohol solvent containing sodium carbonate to give 4-(4-chlorophenyl)-4-hydroxy-2-(4-hydroxyphenyl)-2-thiazolin-5-acetic acid. This compound is dehydrated by heating to give the title compound.

reactant | 3-Bromo-3-(4-chlorobenzoyl)propionate | BrC(CC(=O)[O-])C(C1=CC=C(C=C1)Cl)=O
reactant | 4-hydroxythio-benzamide | OC1=CC=C(C(=S)N)C=C1 | C7H7NOS
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | isopropyl alcohol | C(C)(C)O | C3H8O
product | 4-(4-chlorophenyl)-4-hydroxy-2-(4-hydroxyphenyl)-2-thiazolin-5-acetic acid | ClC1=CC=C(C=C1)C1(N=C(SC1CC(=O)O)C1=CC=C(C=C1)O)O | C17H14ClNO4S
